Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Visual changes
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 The patient is a ___ yo M ___ atrial flutter on Pradaxa,
HTN, HLD, and R eye macular degeneration who presents to the
___ ED ___ with transient ocular symptoms.

Pt returned from a 2 week ___ cruise vacation around
230a on ___. He felt like his usual self at this time. He missed 
his evening dose of Pradaxa ___ ___ but has otherwise been 
compliant. He then went to bed. Around 9a, he awoke and, as he 
was getting ready for the day, he noticed a "circle of white 
light" in his left eye. This
occupied about ___ of his visual field. This evolved into
"ovals inside ovals". Pt had no symptoms in his R eye at this
time; symptoms went away when he closed his L eye. This lasted
~30 minutes. Pt then took a shower. During this time, he felt
that the edges of objects were "fuzzy" and he had floaters in 
his
L eye (entire visual field) and now also the R eye (nasal visual
field). He told his wife who arranged an appointment at ___ After Hours". He has no history of migraines or ocular
migraines. He had never had similar symptoms before.

After presentation to ___ After Hours", he was
referred to the ED for further management. At the OSH ED, he was
a code stroke. NCHCT and basic labs were unremarkable. He was
then transferred to ___ for neuro and ophtho consult and
further imaging.

At the time of my assessment, pt states that his visual symptoms
of "fuzziness" around objects resolved around 14:00. He now has
no visual symptoms. Since ___, however, he has had a dull
headache. The headache started in the bilateral occipital area
and has now migrated to the top of his head. The pain is not
pulsating and is dull and constant. Pt states pain was a ___
when it started and is now a ___. Pain is not positional. Pt
denies photo- or phonosentivity or nausea. Otherwise, pt denies
any numbness or weakness, diplopia, facial drooping, or slurred
speech during any of his symptoms.

On neurologic review of systems, the patient denies
lightheadedness or confusion. Denies difficulty with producing 
or
comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
Atrial flutter on Pradaxa
HTN
HLD, hypertriglyceridemia
R eye macular degeneration
Gout
GERD
Obesity
OSA
R knee OA

 
Social History:
___
Family History:
Parents with HTN. No history of stroke.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals: 97.5 75 124/70 16 97% RA 
General: NAD, resting comfortably, well-appearing, obese,
well-groomed
HEENT: NCAT, no oropharyngeal lesions, MMM, no conjunctival
injection, sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No dysarthria. No evidence of hemineglect. No 
left-right
agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. No ptosis. Optic disc without papilledema.
+V1-V3 without deficits to light touch bilaterally. No facial
movement asymmetry. Hearing intact to finger rub bilaterally. 
Palate elevation symmetric. Trapezius strength ___ bilaterally.
Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    3   2
Plantar response extensor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Slowed speed with rapid alternating movements on 
the
L (pt reports this is chronic following a hand injury).

- Gait - Stable independent ambulation.

========================

DISCHARGE PHYSICAL EXAMINATION
General: NAD, resting comfortably, well-appearing
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Speech is fluent with full sentences, intact repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No dysarthria. No evidence of hemineglect. No 
left-right
agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. No ptosis. +V1-V3 without deficits to light 
touch bilaterally. No facial movement asymmetry. Hearing intact 
to finger rub bilaterally. Palate elevation symmetric. Tongue 
midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

- Coordination - No dysmetria with finger to nose testing 
bilaterally. 

- Gait - Stable independent ambulation.

 
Pertinent Results:
___ 05:20PM BLOOD WBC-10.9* RBC-4.91 Hgb-14.3 Hct-42.7 
MCV-87 MCH-29.1 MCHC-33.5 RDW-14.4 RDWSD-45.3 Plt ___
___ 05:20PM BLOOD Neuts-73.0* Lymphs-15.8* Monos-9.3 
Eos-1.1 Baso-0.5 Im ___ AbsNeut-7.98* AbsLymp-1.73 
AbsMono-1.02* AbsEos-0.12 AbsBaso-0.05
___ 05:20PM BLOOD Plt ___
___ 05:20PM BLOOD ___ PTT-37.5* ___
___ 05:20PM BLOOD Glucose-101* UreaN-14 Creat-1.1 Na-139 
K-4.1 Cl-100 HCO3-28 AnGap-15
___ 05:20PM BLOOD Calcium-9.6 Phos-3.7 Mg-1.8

___ CTA HEAD W&W/O C & RECONS
1. Study is limited secondary to patient body habitus and dental 
streak 
artifact. 
2. Note that no noncontrast imaging was performed for this 
examination. 
3. Patent head and neck vasculature.  No evidence of significant 
stenosis by 
NASCET criteria. 
4.  Please note MRI of the brain is more sensitive for the 
detection of acute 
infarct. 
 
___ MR HEAD W/O CONTRAST
1. No acute intracranial abnormality. 
2. Mild paranasal sinus disease, as described. 

 
Brief Hospital Course:
___ yo M PMHx atrial flutter on Pradaxa, HTN, HLD, and R eye 
macular degeneration who presented to the ___ ED ___ with 
transient ocular symptoms. He was admitted for visual changes 
and headache to rule out stroke. MRI brain was normal. Symptoms 
were most consistent with a migraine variant. Pt does have prior 
history of headaches in his teenage years as well as motion 
sickness, which may be related to a diagnosis of migraine. His 
symptoms had resolved, he was eating a regular diet, voiding 
without issue, and ambulating without issue prior to discharge. 
He was discharged home with close follow up in Neurology clinic 
for further management of headaches.

Patient was also evaluated by ophthalmology. Per their 
examination, visual symptoms were felt to come from the 
migrainous phenomenon, not of ocular origin. However, 
ophthalmology did find a posterior vitreous detachment. Patient 
will follow up with an ophthalmologist as an outpatient for this 
issue.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Dabigatran Etexilate 150 mg PO BID 
3. Atenolol 25 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Dabigatran Etexilate 150 mg PO BID 
5. Lisinopril 10 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine with visual aura

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were admitted for visual changes and a 
headache. Your MRI was normal. Your symptoms are most consistent 
with a migraine headache. You have a prior history of headaches 
in your teenage years and motion sickness, which may be related 
to a diagnosis of migraine (even though this was your first 
headache of this type). You should follow up in Neurology clinic 
for further management of your headaches.

You were evaluated by ophthalmology. Your visual symptoms were 
felt to come from the migraine headache, not your eyes. However, 
ophthalmology did find a posterior vitreous detachment. You 
should follow up with an ophthalmologist as an outpatient.

Please follow up with your PCP ___ ___ weeks after discharge.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___